US04518682
Into 100 ml of chloroform were dissolved 10 g of 5-(2-aminoethyloxy)-1-benzylhydantoin and 4 g of triethylamine. While stirring, a solution of 11.9 g of α-bromo-α-(4-methoxybenzoyl)-2-chloro-5-dodecyloxycarbonylacetanilide in 50 ml of chloroform was added dropwise over a period of about 1 hour at room temperature. After being stirred for an additional 2 hours, the reaction mixture was condensed under reduced pressure, and the residue was purified by the use of a chromatographic column to give 14.1 g of α-(4-methoxybenzoyl)-α-[5-(2-aminoethyloxy)-1-benzyl-3-hydantoinyl]-2-chloro-5-dodecyloxycarbonylacetanilide. Yield. 92%. Oil.

reactant | 5-(2-aminoethyloxy)-1-benzylhydantoin | 10 g | NCCOC1C(NC(N1CC1=CC=CC=C1)=O)=O | C12H15N3O3
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
reactant | α-bromo-α-(4-methoxybenzoyl)-2-chloro-5-dodecyloxycarbonylacetanilide | 11.9 g | BrC(C(=O)N(C1=CC=CC=C1)C(=O)OC(CCCC)CCCCCCC)(Cl)C(C1=CC=C(C=C1)OC)=O | C29H37BrClNO5
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | α-(4-methoxybenzoyl)-α-[5-(2-aminoethyloxy)-1-benzyl-3-hydantoinyl]-2-chloro-5-dodecyloxycarbonylacetanilide | 14.1 g | COC1=CC=C(C(=O)C(C(=O)N(C2=CC=CC=C2)C(=O)OC(CCCC)CCCCCCC)(Cl)N2C(N(C(C2=O)OCCN)CC2=CC=CC=C2)=O)C=C1 | C41H51ClN4O8
